US05214037
To a solution of 5-chloromethylthio-1-methyltetrazole (987 mg:6.0 mMol.) in acetone (10 ml) is added sodium iodide (1.78 g : 12.0 mMol.), and the mixture is stirred at 50° C. for 3 hours. After cooling, the reaction mixture is diluted with water and extracted with ethyl acetate. The extract is washed with water dried over sodium sulfate, filtered, and concentrated to give 5-iodomethylthio-1-methyltetrazole as yellow oil (1.33 g : containing about 20 Mol. % of the chloride).

reactant | 5-chloromethylthio-1-methyltetrazole | 6.0 mMol, 987 mg | ClCSC1=NN=NN1C | C3H5ClN4S
reactant | sodium iodide | 12.0 mMol, 1.78 g | [I-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 5-iodomethylthio-1-methyltetrazole | ICSC1=NN=NN1C | C3H5IN4S
